US09210927B2
Preparation of 3-Chloro-4-((1,3-dioxoisoindolin-2-yl)methyl)benzaldehyde (CI18)
To a stirred solution of 4-(bromomethyl)-3-chlorobenzaldehyde (3.8 g, 14 mmol) in DMF (40 mL) was added potassium pthalimide (3.54 g, 19.14 mmol), and the mixture was heated at 60° C. for 6 h. The reaction mixture was cooled to ambient temperature and diluted with H2O (100 mL). The solid obtained was separated by filtration and dried under vacuum to afford the title compound as a white solid (2.8 g, 60%): mp 123-126° C.; 1H NMR (400 MHz, CDCl3) δ 9.95 (s, 1H), 8.21 (s, 1H), 7.91 (m, 3H), 7.80 (m, 2H), 7.20 (m, 1H), 5.05 (s, 2H); ESIMS m/z 298.03 ([M−H]−).

reactant | 4-(bromomethyl)-3-chlorobenzaldehyde | 14 mmol, 3.8 g | BrCC1=C(C=C(C=O)C=C1)Cl | C8H6BrClO
reactant | potassium pthalimide | 19.14 mmol, 3.54 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | H2O | 100 mL | O | H2O
product | 3-Chloro-4-((1,3-dioxoisoindolin-2-yl)methyl)benzaldehyde | 2.8 g, 60% | ClC=1C=C(C=O)C=CC1CN1C(C2=CC=CC=C2C1=O)=O | C16H10ClNO3
